US08633211B2
Intermediate T {5-Chloro-1-[(5-chloro-2,4-dimethoxy-phenylcarbamoyl)-methyl]-2,4-dioxo-1,4-dihydro-2H-pyrido[4,3-d]pyrimidin-3-yl}-acetic acid tert-butyl ester
A vial is charged with (5-Chloro-2,4-dioxo-1,4-dihydro-2H-pyrido[4,3-d]pyrimidin-3-yl)-acetic acid tert-butyl ester (53.1 mg, 0.17 mmol), 2-Bromo-N-(5-chloro-2,4-dimethoxy-phenyl)-acetamide (58.1 mg, 0.187 mmol), and Cs2CO3 (124.3 mg, 0.34 mmol). The mixture is treated with DMF (3 ml) and the solution stirred at RT overnight. The reaction mixture is treated with water and the product extracted with EtOAc (3×10 ml). The organic extracts are combined and washed with water (2×10 ml), dried (MgSO4), filtered and concentrated in vacuo. The crude material is purified using flash column chromatography with an eluent system of isohexane:EtOAc to give the title compound; [M+H]+ 539.

reactant | (5-Chloro-2,4-dioxo-1,4-dihydro-2H-pyrido[4,3-d]pyrimidin-3-yl)-acetic acid tert-butyl ester | 0.17 mmol, 53.1 mg | C(C)(C)(C)OC(CN1C(NC2=C(C1=O)C(=NC=C2)Cl)=O)=O | C13H14ClN3O4
reactant | 2-Bromo-N-(5-chloro-2,4-dimethoxy-phenyl)-acetamide | 0.187 mmol, 58.1 mg | BrCC(=O)NC1=C(C=C(C(=C1)Cl)OC)OC | C10H11BrClNO3
reactant | Cs2CO3 | 0.34 mmol, 124.3 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | {5-Chloro-1-[(5-chloro-2,4-dimethoxy-phenylcarbamoyl)-methyl]-2,4-dioxo-1,4-dihydro-2H-pyrido[4,3-d]pyrimidin-3-yl}-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C(N(C2=C(C1=O)C(=NC=C2)Cl)CC(NC2=C(C=C(C(=C2)Cl)OC)OC)=O)=O)=O | C23H24Cl2N4O7
